US06040339
N-(2-t-Butyl-5-carbamoylphenyl)-3-(2,4-dimethoxyphenyl)octanamide (Compound No. 30)
188 mg (1.16 mmol) of N,N'-carbonyldiimidazole were added to a suspension of 381 mg (0.84 mmol) of N-(2-t-butyl-5-carboxyphenyl)-3-(2,4-dimethoxyphenyl)octanamide (prepared as described in Preparation 7) in 8 ml of acetonitrile, and the resulting mixture was stirred at room temperature for 40 minutes, after which 282 mg (4.18 mmol) of ammonium chloride and 0.59 ml (4.23 mmol) of triethylamine were added thereto. The reaction mixture was then stirred for 2 hours, after which water was added, and the aqueous mixture was freed from acetonitrile by distillation under reduced pressure. The resulting residue was extracted with ethyl acetate, and the extract was washed with 2 N aqueous hydrochloric acid, with a saturated aqueous solution of sodium hydrogencarbonate, with water and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through 50 g of silica gel, using ethyl acetate as the eluent, to give 352 mg (yield 93%) of the title compound as crystals, melting at 151-152° C. (from a mixture of hexane and ethyl acetate).

reactant | N-(2-t-butyl-5-carboxyphenyl)-3-(2,4-dimethoxyphenyl)octanamide | 0.84 mmol, 381 mg | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)O)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C27H37NO5
reactant | ammonium chloride | 4.18 mmol, 282 mg | [Cl-].[NH4+]
reactant | triethylamine | 4.23 mmol, 0.59 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | N-(2-t-Butyl-5-carbamoylphenyl)-3-(2,4-dimethoxyphenyl)octanamide | 352 mg, yield 93% | C(C)(C)(C)C1=C(C=C(C=C1)C(N)=O)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C27H38N2O4
